US06114361
Step F: (2R, 4S )-4-(4-Benzyloxyphenyl)-5-oxo-pyrrolidine-2-carboxylic acid hydroxyamide
To a suspension of (2R, 4S)-4-(4-benzyloxyphenyl)-5-oxo-pyrrolidine-2-carboxylic acid (2-trimethylsilanylethoxy)amide (95 mg, 0.22 mmol) in methylene chloride was added boron trifluoride etherate (0.86 μL, 0.68 mmol). The mixture was stirred at room temperature for 75 minutes. During this period the suspended solid dissolved completely and the product precipitated. The mixture was quenched by addition of saturated aqueous NH4Cl solution. The title compound was collected by filtration, washing well with ethyl acetate and water, and dried. The yield was 56 mg (78%).

reactant | (2R, 4S)-4-(4-benzyloxyphenyl)-5-oxo-pyrrolidine-2-carboxylic acid (2-trimethylsilanylethoxy)amide | 0.22 mmol, 95 mg | C[Si](CCONC(=O)[C@@H]1NC([C@@H](C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)(C)C | C23H30N2O4Si
reactant | boron trifluoride etherate | 0.68 mmol, 0.86 μL | B(F)(F)F.CCOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2R, 4S )-4-(4-Benzyloxyphenyl)-5-oxo-pyrrolidine-2-carboxylic acid hydroxyamide | ONC(=O)[C@@H]1NC([C@@H](C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C18H18N2O4
